US07544702B2
2-amino-5-iodo-6-n-pentyloxycarbonylpyridine (17)
To a stirred solution of 2-amino-5-bromo-6-methoxycarbonylpyridine (13.8 g, 59.3 mmol) in n-pentanol (75 mL) was added 1,3-diaminopropane (900 mg, 12.1 mmol), copper (I) iodide (1.15 g, 6.0 mmol) and sodium iodide (18.0 g, 120 mmol). The reaction mixture heated to 135° C. After 16 hours (HPLC analysis shows ˜70% conversion), further portions of copper (I) iodide (600 mg, 3.0 mmol), sodium iodide (9.0 g, 60 mmol) and 1,3-diaminopropane (450 mg, 6.0 mmol) were added. After a further 4 hours, the reaction mixture was cooled to room temperature, diluted with water (200 mL), and extracted with ethyl acetate (2×200 mL). The combined organic extracts were dried over magnesium sulphate and concentrated under reduced pressure. Filtration through a short plug of silica, washing with ethyl acetate:cyclohexane 1:2 affords 2-amino-5-iodo-6-npentyloxycarbonylpyridine (8.94 g, 26.7 mmol, 45%) as a pale yellow solid. 1H NMR (CDCl3) 7.82 (1H, d, J 12 Hz, C4-H), 6.36 (1H, d, J 12 Hz, C3-H), 4.65 (2H, m, NH2), 4.36 (2H, d, J 8 Hz, COCH2), 1.87-0.89 (9H, m, CH2CH2CH2CH3)

reactant | 2-amino-5-bromo-6-methoxycarbonylpyridine | 59.3 mmol, 13.8 g | NC1=NC(=C(C=C1)Br)C(=O)OC | C7H7BrN2O2
reactant | 1,3-diaminopropane | 12.1 mmol, 900 mg | NCCCN | C3H10N2
reactant | sodium iodide | 120 mmol, 18.0 g | [I-].[Na+]
reactant | sodium iodide | 60 mmol, 9.0 g | [I-].[Na+]
reactant | 1,3-diaminopropane | 6.0 mmol, 450 mg | NCCCN | C3H10N2
reactant | n-pentanol | 75 mL | C(CCCC)O | C5H12O
solvent | water | 200 mL | O | H2O
catalyst | copper (I) iodide | 6.0 mmol, 1.15 g | [Cu]I
catalyst | copper (I) iodide | 3.0 mmol, 600 mg | [Cu]I
product | 2-amino-5-iodo-6-n-pentyloxycarbonylpyridine | NC1=NC(=C(C=C1)I)C(=O)OCCCCC | C11H15IN2O2
